US08471005B2
Into a 8-dram vial, 2-(2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenol (0.530 g, 2.06 mmol) and Methylene chloride (15 mL, 230 mmol)were added. m-CPBA 70-75% (70:30, m-Chloroperbenzoic acid:3-Chlorobenzoic acid, 0.533 g, 2.16 mmol) was added over 10 minutes. The reaction was stirred at room temperature for 1 hour. The reaction was partitioned with DCM and sat. NaHCO3. The organic was separated, washed with Brine, and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to give 2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenol as a yellow solid (0.485 g, 86%).

reactant | 2-(2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenol | 2.06 mmol, 0.530 g | CSC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)O | C13H11N3OS
reactant | Methylene chloride | 230 mmol, 15 mL | C(Cl)Cl | CH2Cl2
reactant | m-CPBA | 2.16 mmol, 0.533 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenol | 0.485 g, 86% | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)O | C13H11N3O2S
